US06525042B1
1-Methoxycarbonyl-3-pyrroline
In dichloromethane (20 ml), 3-pyrroline (1.1 ml) was dissolved, followed by the addition of triethylamine (2.6 ml) and methyl chloroformate (1.2 ml) under ice cooling. The resulting mixture was stirred at room temperature for 17 hours. The residue obtained by distilling the reaction mixture under reduced pressure was purified by chromatography on a silica gel column (hexane:ethyl acetate=4:1), whereby the title compound (0.95 g, 52%) was obtained.

reactant | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 1.2 ml | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | 3-pyrroline | 1.1 ml | N1CC=CC1 | C4H7N
product | 1-Methoxycarbonyl-3-pyrroline | COC(=O)N1CC=CC1 | C6H9NO2
